US05731340
6 g of N-formyl-2,6-dimethoxy-4-methylaniline are suspended in 100 ml of tetrahydrofuran and then 33 ml of a 1M solution of lithium aluminium hydride in tetrahydrofuran are added dropwise under an inert atmosphere. The reaction mixture become homogeneous. The reaction mixture is left at room temperature for 2 hours and then, after cooling to 0° C., 1 ml of water, then 1 ml of a 15% aqueous sodium hydroxide solution and then 3 ml of water are successively added dropwise to the reaction mixture. The whole mixture is diluted with 100 ml of ethyl acetate and the precipitate is filtered. The filtrate, evaporated to dryness, leaves an oily residue which is purified by flash chromatography on a column of silica gel, eluent: toluene/ethyl acetate 8/2 (v/v) in order to obtain N-methyl-2,6-dimethoxy-4-methylaniline in the form of an oil, Yield: 85%.

reactant | N-formyl-2,6-dimethoxy-4-methylaniline | 6 g | C(=O)NC1=C(C=C(C=C1OC)C)OC | C10H13NO3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-2,6-dimethoxy-4-methylaniline | Yield: 85% | CNC1=C(C=C(C=C1OC)C)OC | C10H15NO2
